US07612060B2
Step (i): Synthesis of (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-3-(2,2,2-trifluoroacetyl)-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one
To a solution of (R)-4-(3,4-dichlorophenylsulfonyl)-3-(prop-2-ynyl)-3,4-dihydropyrazin-2(1H)-one (345 mg, 1 mmol) and (R)-1-(7-azido-1,2,7,8,9,10-hexahydrobenzo[f]isoquinolin-3(4H)-yl)-2,2,2-trifluoroethanone (324 mg, 1 mmol) in dioxane (3 mL) and t-BuOH (4 mL) was added a solution of copper(2+) sulfate, pentahydrate (249 mg, 1 mmol) in water (0.5 mL), followed by a solution of (+)-sodium 1-ascorbate (198 mg, 1 mmol) in water (0.5 mL). The resulting solution was stirred at room temperature for 16 h. The reaction was diluted with EtOAc, washed with brine, dried over Na2SO4, and evaporated to dryness. Flash chromatography (SiO2, EtOAc/hexane=2:1 to pure EtOAc) afforded the title compound as a white solid.

reactant | (R)-4-(3,4-dichlorophenylsulfonyl)-3-(prop-2-ynyl)-3,4-dihydropyrazin-2(1H)-one | 1 mmol, 345 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC#C | C13H10Cl2N2O3S
reactant | (R)-1-(7-azido-1,2,7,8,9,10-hexahydrobenzo[f]isoquinolin-3(4H)-yl)-2,2,2-trifluoroethanone | 1 mmol, 324 mg | N(=[N+]=[N-])[C@@H]1CCCC=2C=3CCN(CC3C=CC21)C(C(F)(F)F)=O | C15H15F3N4O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | t-BuOH | 4 mL | CC(C)(C)O | C4H10O
solvent | water | 0.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(2+) sulfate, pentahydrate | 1 mmol, 249 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-3-(2,2,2-trifluoroacetyl)-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@@H]1CCCC=2C=3CCN(CC3C=CC21)C(C(F)(F)F)=O | C28H25Cl2F3N6O4S
